US06734183B2
3-(3-Chlorophenyl)butyraldehyde.
A mixture of 3-chloroiodobenzene (2.38 g), palladium acetate (20 mg), sodium bicarbonate (1.01 g) and crotyl alcohol (1.28 ml) in N-methylpyrrolidone (4 ml) was stirred and heated at 130° C. for 2 hours. The reaction mixture was allowed to cool, water (50 ml) was added and the mixture was extracted with diethyl ether (2×50 ml). The combined organic extracts were dried and the residue obtained on removal of the solvent was purified by chromatography through silica eluting with a mixture of ethyl acetate and methylene chloride (1:20) to give the title compound as an oil, yield 519 mg, M−H=181

reactant | 3-chloroiodobenzene | 2.38 g | ClC=1C=C(C=CC1)I | C6H4ClI
reactant | sodium bicarbonate | 1.01 g | C([O-])(O)=O.[Na+]
reactant | crotyl alcohol | 1.28 ml | C(C=CC)O | C4H8O
reactant | water | 50 ml | O | H2O
solvent | N-methylpyrrolidone | 4 ml | CN1C(CCC1)=O | C5H9NO
catalyst | palladium acetate | 20 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-(3-Chlorophenyl)butyraldehyde | ClC=1C=C(C=CC1)C(CC=O)C | C10H11ClO
